US08703821B2
(2,4,6-Trimethyl-phenyl)-methanol (4.50 g, 30 mmol) was introduced to the suspension of sodium hydride (95%, 0.84 g, 35 mmol) in dry THF (100 ml), under a nitrogen blanket and the reaction mixture was heated to reflux for one hour. After the reaction mixture cooled down to 25° C., sodium iodoacetate (7.28 g, 35 mmol) was added in one portion, and the reaction was heated to reflux for another two hours. The resulting precipitate was collected by filtration, and then dissolved into water (60 ml). This aqueous solution was acidified to pH 2 at 5° C. by 6N HCl to generate precipitate, which was then isolated by filtration to give pure benzyloxy acetic acid as white powder (3.2 g, 51.2%), mp 81-83°. Microanalysis for C12H16O3 (208.26): C, 69.21, H, 7.74. found: C, 68.83, H, 7.66. 1H-NMR (d6-DMSO): 6.82 (s, 2 arom. H); 4.50 (s, OCH2CO2H); 4.01, 4.02 (2s, CH2O); 2.29 (s, 2 ortho-CH3); 2.20 (s, para-CH3).

reactant | (2,4,6-Trimethyl-phenyl)-methanol | 30 mmol, 4.50 g | CC1=C(C(=CC(=C1)C)C)CO | C10H14O
reactant | sodium hydride | 35 mmol, 0.84 g | [H-].[Na+]
reactant | sodium iodoacetate | 35 mmol, 7.28 g | ICC(=O)[O-].[Na+]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | benzyloxy acetic acid | 3.2 g, 51.2% | C(C1=CC=CC=C1)OCC(=O)O | C9H10O3
